US07666659B2
Process for Producing ethyl 2-formyl-3-(3,4-methylenedioxyphenyl)-propionate
First 2.0 g of 606 NaH was suspended in 30 ml of THF and the suspension solution was cooled to 0° C. Then, 6.0 g of ethyl 3-(3,4-methylenedioxyphenyl)-propionate (purity: 92.1% by weight) was dissolved in 20 ml of THF and added dropwise to the suspension solution prepared above. After 4 ml of ethyl formate was added at 0° C., the solution was returned to room temperature and stirred for a further 20 minutes. The reaction solution was heated to 40° C. and stirring was further continued. About 30 minutes after heating, gas generation was observed. After completion of gas generation, the reaction solution was analyzed by HPLC (Column: LiChrosphere 100 PR-8(E), 250 mm×4.0 mm I.D., manufactured by Merck Ltd., Mobile phase: an aqueous solution of phosphate/potassium dihydrogenphosphate: acetonitrile=1:1, flow rate: 1 ml/minute, detection wavelength: 210 nm, column temperature: 30° C.), it was observed that raw materials remained. Then, 1 g of NaH and 4 ml of ethyl formate were added to the reaction solution and stirred at 40° C. Gas generation started again and completed in about 15 minutes. As the reaction solution was analyzed again, the raw materials were observed to still remain. Then, 1 g of NaH and 4 ml of ethyl formate were added to the reaction solution. After completion of gas generation, the reaction solution was analyzed again. Since the raw materials were observed to slightly remain, further 1 g of NaH and 8 ml of ethyl formate were added to the reaction solution. Since the raw materials were observed to completely disappear, the reaction was terminated. After pH was adjusted to 7 to 8 with hydrochloric acid, ethyl acetate was added to perform extraction. Mineral oil contained in NaH was removed by a separatory funnel in accordance with a liquid-separatory operation. The obtained ethyl acetate layer was concentrated to obtain 4.75 g of the titled compound as an orange oil. The chemical purity, as analyzed in accordance with the process of Example 1, was 80.20% by weight.

reactant | NaH | [H-].[Na+]
reactant | ethyl 3-(3,4-methylenedioxyphenyl)-propionate | 6.0 g | C1OC=2C=C(C=CC2O1)CCC(=O)OCC | C12H14O4
reactant | ethyl formate | 4 ml | C(=O)OCC | C3H6O2
reactant | phosphate potassium dihydrogenphosphate | P(=O)([O-])([O-])[O-].P(=O)(O)(O)[O-].[K+]
reactant | NaH | 1 g | [H-].[Na+]
reactant | ethyl formate | 4 ml | C(=O)OCC | C3H6O2
reactant | NaH | 1 g | [H-].[Na+]
reactant | ethyl formate | 4 ml | C(=O)OCC | C3H6O2
reactant | NaH | 1 g | [H-].[Na+]
reactant | ethyl formate | 8 ml | C(=O)OCC | C3H6O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl 2-formyl-3-(3,4-methylenedioxyphenyl)-propionate | 4.75 g | C(=O)C(C(=O)OCC)CC1=CC2=C(C=C1)OCO2 | C13H14O5
